resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.997608
R2 0 n2 1.002206
R3 0 n4 0.98053
R4 n1 n3 0.997039
R5 n1 n5 1.014255
R6 n2 n3 1.000031
R7 n2 n6 1.011569
R8 n3 n7 1.012681
R9 n4 n5 1.010509
R10 n4 n6 0.992197
R11 n5 n7 1.015209
R12 n6 n7 0.996622
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
